F112 combined capacitor cold inrush bound; external 4400uF assumed
.include /home/lolz0r/repros/wpc_power_driver_cost/variants/jlcpcb-100/tools/spice/models.lib
Vsec a b SIN(0 79.97000000000001 50 0 0 90)
Rwind a aa 0.6
Vf aa ab 0
D1 ab dc DGBPC35
D2 b dc DGBPC35
D3 0 ab DGBPC35
D4 0 b DGBPC35
Csum dc 0 10560u
.options method=gear reltol=.001 minbreak=1p klu
.tran 2u .1 0 2u uic
.control
run
let sim_end=time[length(time)-1]
print sim_end
let isq=i(Vf)*i(Vf)
let iabs=abs(i(Vf))
meas tran i2t INTEG isq from=0 to=.1
meas tran peak MAX iabs
.endc
.end
