High rail 60 Hz 0.9 line, 3 A continuous engineering load
.include /home/lolz0r/repros/wpc_power_driver_cost/variants/jlcpcb-100/tools/spice/models.lib
Vsec a b SIN(0 65.43 60)
Ra a aa .6
Rb b bb .6
Vf aa ab 0
D1 ab dc DGBPC35
D2 bb dc DGBPC35
D3 0 ab DGBPC35
D4 0 bb DGBPC35
Resra dc ca 0.08
Resrb dc cb 0.16
C8 ca 0 2640u
C32 cb 0 1760u
Bload dc 0 I=ternary_fcn(time>.1,3,0)*tanh(v(dc))
.options method=gear reltol=.001 minbreak=1p klu
.tran 10u 1 0 10u uic
.control
run
let sim_end=time[length(time)-1]
print sim_end
meas tran ripple_c8 RMS @c8[i] from=.8 to=1
meas tran ripple_c32 RMS @c32[i] from=.8 to=1
meas tran fuse_rms RMS i(Vf) from=.8 to=1
meas tran cap_peak MAX v(dc)
.endc
.end
